US05861417
Combine methyl 2-methoxy-5-cyanobenzoate (0.67 mmol), sodium azide (0.13 g, 2.04 mmol), and triethylammonium hydrochloride (0.14 g, 1.03 mmol) in N-methylpyrrolidinone (6 mL). Heat to 150° C. After 4 hours, cool to ambient temperature and partition the reaction mixture between water and ethyl acetate. Separate the layers and extract the aqueous layer three times with ethyl acetate. Adjust the pH of the aqueous layer to about 1 using a 1M aqueous hydrochloric acid solution. The aqueous layer is again extracted three times with ethyl acetate, and twice with dichloromethane. The aqueous layer is saturated with sodium chloride and again extracted four times with dichloromethane. Combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give methyl 2-methoxy-5-(1H-tetrazol-5-yl)benzoate.

reactant | methyl 2-methoxy-5-cyanobenzoate | 0.67 mmol | COC1=C(C(=O)OC)C=C(C=C1)C#N | C10H9NO3
reactant | sodium azide | 2.04 mmol, 0.13 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylammonium hydrochloride | 1.03 mmol, 0.14 g | Cl.C(C)[NH+](CC)CC
solvent | N-methylpyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 2-methoxy-5-(1H-tetrazol-5-yl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)C1=NN=NN1 | C10H10N4O3
